US04879305
To a well stirred solution of 3-bromofluoroacetyl-5-methoxyindole (7.5 g, 26.22 mmol) and 4-dimethylaminopyridine (0.24 g, 2.62 mmol) in 150 ml of tetrahydrofuran (THF) add dropwise di-t-butyl dicarbonate (6.3 g, 28.9 mmol) at room temperature and allow to react for 1 h. Evaporate the THF and the t-butanol from the resulting mixture and stir the crude product in diethyl ether for 1 h. Collect the product by filtration and recrystallize in acetone to yield 1-(t-butyloxycarbonyl)-3-bromofluoroacetyl-5-methoxyindole; (9.11 g, 90% yield); mp 165°-166° C., NMR (acetone-d6) δ1.70 (s, 9H), 3.85 (s, 3H), 6.83-7.13 (m, 1H), 7.01 (d, J=50 Hz, 1H), 7.63-8.17 (m, 2H), 8.47-8.63 (m, 1H).

reactant | 3-bromofluoroacetyl-5-methoxyindole | 26.22 mmol, 7.5 g | BrC1=C(NC2=CC=C(C=C12)OC)C(CF)=O | C11H9BrFNO2
reactant | di-t-butyl dicarbonate | 28.9 mmol, 6.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 2.62 mmol, 0.24 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-(t-butyloxycarbonyl)-3-bromofluoroacetyl-5-methoxyindole | 90% yield | C(C)(C)(C)OC(=O)N1C(=C(C2=CC(=CC=C12)OC)Br)C(CF)=O | C16H17BrFNO4
